US07687118B2
7.35 g (22.5 mmol) 4-pentoxyphenyl (2E)-3-{4-hydroxyphenyl}acrylate, 3.36 g (24.6 mmol) 6-chloro-1-hexanol and 6.45 g (24.6 mmol) of triphenylphosphine were dissolved in 100 ml of tetrahydrofurane. The colourless solution was subsequently cooled to 0° C. and 4.28 g (24.6 mmol) of a 40% solution of azodicarboxylic acid diethyl ester in toluene were added dropwise thereto over a period of 25 minutes. The mixture was subsequently allowed to react for 4 h at 0° C. The reaction mixture was reduced in volume by evaporation. The resulting residue was added to a mixture of methanol and water (3:2) and was then extracted with a mixture of tert.-butyl-methylether:hexane 1:1. The tert.-butyl-methylether:hexane phase was washed repeatedly with water, dried over magnesium sulphate, filtered and concentrated by rotary evaporation to yield 7.5 g 4-pentoxyphenyl (2E)-3-{4-(6-chlorohexyloxy)phenyl}acrylate as yellowish crystals.

reactant | 4-pentoxyphenyl (2E)-3-{4-hydroxyphenyl}acrylate | 22.5 mmol, 7.35 g | OC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C20H22O4
reactant | 6-chloro-1-hexanol | 24.6 mmol, 3.36 g | ClCCCCCCO | C6H13ClO
reactant | triphenylphosphine | 24.6 mmol, 6.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-pentoxyphenyl (2E)-3-{4-(6-chlorohexyloxy)phenyl}acrylate | 7.5 g | ClCCCCCCOC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C26H33ClO4
